US07964724B2
To a cooled solution (5° C.) of ethyl dimethyl-3-ethoxyphenylacetate (5.0 g, 21.1 mmol) in acetic acid (40 mL) was added dropwise a solution of iodine monochloride (5.0 g, 30.9 mmol) in acetic acid. The reaction was stirred at room temperature for 18 h and diluted with water and extracted with methylene chloride. The combined organic layers were washed with aqueous sodium thiosulfate, aqueous sodium bicarbonate and brine. The solution was dried over anhydrous magnesium sulfate, filtered and concentrated to give ethyl dimethyl-(3-ethoxy-4-iodophenyl)acetate (6.25 g, 82%) as a yellow oil.

reactant | ethyl dimethyl-3-ethoxyphenylacetate | 21.1 mmol, 5.0 g | CC(C(=O)OCC)(C1=CC(=CC=C1)OCC)C | C14H20O3
reactant | iodine monochloride | 30.9 mmol, 5.0 g | ICl | ClI
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | ethyl dimethyl-(3-ethoxy-4-iodophenyl)acetate | 6.25 g, 82% | CC(C(=O)OCC)(C1=CC(=C(C=C1)I)OCC)C | C14H19IO3
